US09290517B2
Step C: 4-(4-(6-chloro-2-(((3R,3aR,6R,6aR)-6-hydroxyhexahydrofuro[3,2-b]furan-3-yl)oxy)-1H-imidazo[4,5-b]pyridin-5-yl)phenyl)-3-hydroxytetrahydro-2H-thiopyran 1,1-dioxide
To a stirred solution of 4-(4-(2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-5-yl)phenyl)-3,6-dihydro-2H-thiopyran 1,1-dioxide (50 mg, 0.067 mmol) under nitrogen in anhydrous THF (0.7 ml) at room temperature was added 1M diborane in THF (0.08 ml, 0.08 mmol). The mixture was stirred at room temperature for 3 hours, then an additional aliquot of 1M diborane in THF (0.16 ml, 0.16 mmol) was added. The mixture was stirred for 17 hours, then a premixed solution of aqueous 5M NaOH (20 μl, 0.100 mmol) and 30% aqueous hydrogen peroxide (10 μl, 11 mg, 0.100 mmol) was added. After 20 hours, the mixture was poured into saturated aqueous sodium thiosulfite (20 ml) and extracted with ethyl acetate (2×50 ml). The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The resultant oil was chromatographed using a 12 g silica gel cartridge eluted with 0-100% ethyl acetate in hexanes over 20 column volumes. The desired product fractions were combined and concentrated under reduced pressure. The resulant oily film was dissolved in DCM (1.0 ml) and TFA (1.0 ml). The mixture was stirred for 17 hours, then concentrated under reduced pressure. The resultant film was chromatographed using a Gilson reverse phase prep HPLC eluted with 10-90% acetonitrile in water (with 0.05% TFA). The desired product fractions were combined, frozen at −78° C., and lyophilized to dryness to provide the title compound as a white solid. LC-MS: calculated for C23H24ClN3O7S 521.10 observed m/e: 522.28 (M+H)+ (Rt 1.58/2 min).

reactant | 4-(4-(2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-5-yl)phenyl)-3,6-dihydro-2H-thiopyran 1,1-dioxide | 0.067 mmol, 50 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C=1CCS(CC1)(=O)=O)N2)COCC[Si](C)(C)C | C35H50ClN3O7SSi2
reactant | diborane | 1M | B#B | B2
reactant | diborane | 1M | B#B | B2
reactant | NaOH | 0.100 mmol, 5M, 20 μl | [OH-].[Na+]
reactant | hydrogen peroxide | 0.100 mmol, 10 μl, 11 mg | OO | H2O2
reactant | sodium thiosulfite | 20 ml | S(=S)([O-])[O-].[Na+].[Na+]
solvent | THF | 0.7 ml | C1CCOC1 | C4H8O
solvent | THF | 0.16 mmol, 0.16 ml | C1CCOC1 | C4H8O
solvent | THF | 0.08 mmol, 0.08 ml | C1CCOC1 | C4H8O
product | 4-(4-(6-chloro-2-(((3R,3aR,6R,6aR)-6-hydroxyhexahydrofuro[3,2-b]furan-3-yl)oxy)-1H-imidazo[4,5-b]pyridin-5-yl)phenyl)-3-hydroxytetrahydro-2H-thiopyran 1,1-dioxide | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1C(CS(CC1)(=O)=O)O)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)[C@@H](CO1)O | C23H24ClN3O7S
